US08217066B2
Synthesis of [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[3-(2-chloro-6-fluoro-phenyl)-1-methyl-propyl]-amine
Prepared according to the procedure described in Example 8, Step 1, using 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine and 4-(2-chloro-6-fluoro-phenyl)-butan-2-one.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)N | C10H9BrN2O
reactant | 4-(2-chloro-6-fluoro-phenyl)-butan-2-one | ClC1=C(C(=CC=C1)F)CCC(C)=O | C10H10ClFO
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[3-(2-chloro-6-fluoro-phenyl)-1-methyl-propyl]-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CCC1=C(C=CC=C1F)Cl)C | C20H19BrClFN2O
